US06762321B2
4.20 g (9.19 mmol) of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide, 14.3 g (23.0 mmol) of 10% aqueous potassium hydroxide solution, 0.60 g (1.84 mmol) of tetrabutylammonium bromide and 40 ml of ethylene glycol dimethyl ether were mixed and chlorodifluoromethane gas was blown thereto at room temperature. After a sample was taken out from the reaction mixture and the disappearance of the starting material was confirmed by thin layer chromatography, 5% hydrochloric acid was added to the reaction mixture. The reaction mixture was extracted with ethyl acetate, washed with 5% hydrochloric acid, saturated aqueous sodium bicarbonate solution and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (eluent, hexane:ethyl acetate=2:1) and the obtained product was washed with hexane to give 2.4 g of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-difluoromethoxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide (the present compound 1281).

reactant | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 9.19 mmol, 4.20 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(C(=CO)C1=CC=2CCCCC2C=C1)=O)OC | C29H31NO4
reactant | potassium hydroxide | 23.0 mmol, 14.3 g | [OH-].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | hydrochloric acid | Cl | ClH
catalyst | tetrabutylammonium bromide | 1.84 mmol, 0.60 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethylene glycol dimethyl ether | 40 ml | COCCOC | C4H10O2
product | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-difluoromethoxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 2.4 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(C(=COC(F)F)C1=CC=2CCCCC2C=C1)=O)OC | C30H31F2NO4
